US05070207
B. 7-(4-chlorophenoxy)-5,5-dimethyl-1,1,1-trifluoro-3-heptyne-2-one
To a solution of 2.5 g (11.2 mmol) of 5-(4-chlorophenoxy)-3,3-dimethyl-1-pentyne in 25 ml of anhydrous tetrahydrofuran cooled to -78° C. under a nitrogen atmosphere is added 4.5 ml of 2.5M n-butyllithium in hexanes. The mixture is stirred at -78° C. for 1 hour and then is transferred by canula to a solution of 3.19 g (22.4 mmol) of ethyl trifluoroacetate in 10 ml of tetrahydrofuran cooled to -78° C. After the addition is complete, the reaction is stirred at -78° C. for 0.5 hour, is allowed to warm to 0° C. and then is quenched with saturated ammonium chloride followed by 0.1N hydrochloric acid. The layers are separated and the organic phase is washed with saturated sodium bicarbonate and brine. The organic extract is dried over magnesium sulfate, filtered and evaporated. The residue is subjected to flash chromatography on silica gel using hexane:ethyl ether (93:7) as eluting solvent. The appropriate fractions are combined and evaporated to give a light tan oil: IR (film) 2200, 1710 cm-1 ; NMR (CDCl3) δ1.42 (6H, s), 2.04 (2H, d, J=6.5 Hz), 4.1 (2H, t, J=6.6 Hz), 6.81 (2H, d, J=9.0 Hz), 7.23 (2H, d, J=9.0 Hz)

reactant | 5-(4-chlorophenoxy)-3,3-dimethyl-1-pentyne | 11.2 mmol, 2.5 g | ClC1=CC=C(OCCC(C#C)(C)C)C=C1 | C13H15ClO
reactant | n-butyllithium | 2.5M, 4.5 ml | C(CCC)[Li]
reactant | ethyl trifluoroacetate | 22.4 mmol, 3.19 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-(4-chlorophenoxy)-5,5-dimethyl-1,1,1-trifluoro-3-heptyne-2-one | ClC1=CC=C(OCCC(C#CC(C(F)(F)F)=O)(C)C)C=C1 | C15H14ClF3O2
